US07528136B2
To a solution of 4-amino-1-benzyl-pyrrolidine-2-carboxylic acid methyl ester (2.89 g, 12.33 mmol) and 2,4-difluorobenzaldehyde (1.64 g, 11.52 mmol) in DCM (25 ml) were added MgSO4 (8.1 g), AcOH (0.5 ml), and then NaBH3CN (1.09 g, 17.28 mmol). The reaction mixture was stirred overnight, and then diluted with DCM. The organic solution was washed with aq. NaHCO3, dried (Na2SO4) and concentrated. The residue was dissolved in water, treated with (Boc)2O (1.09 g, 5 mmol), and then stirred overnight. The reaction mixture was extracted with DCM, dried, and concentrated to give product 1-benzyl-4-[tert-butoxycarbonyl-(2,4-difluoro-benzyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester as white solid 1.9 g (36%). MS m/e=461.3 [M+H]+.

reactant | 4-amino-1-benzyl-pyrrolidine-2-carboxylic acid methyl ester | 12.33 mmol, 2.89 g | COC(=O)C1N(CC(C1)N)CC1=CC=CC=C1 | C13H18N2O2
reactant | 2,4-difluorobenzaldehyde | 11.52 mmol, 1.64 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | MgSO4 | 8.1 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | NaBH3CN | 17.28 mmol, 1.09 g | [BH3-]C#N.[Na+]
reactant | (Boc)2O | 5 mmol, 1.09 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
solvent | AcOH | 0.5 ml | CC(=O)O | C2H4O2
product | 1-benzyl-4-[tert-butoxycarbonyl-(2,4-difluoro-benzyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester | 1.9 g, 36% | COC(=O)C1N(CC(C1)N(CC1=C(C=C(C=C1)F)F)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C25H30F2N2O4
